US07923450B2
b) {2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazolin-8-yl}-acetic acid ethyl ester
The title compound was prepared from crude {3-[1-dimethylamino-meth-(E)-ylidene]-2-oxo-cyclohexyl}-acetic acid ethyl ester (108 mg, 0.33 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (111 mg, 0.30 mmol) using in analogous manner the procedure described in example 45b). Obtained as yellow crystals (83 mg, 66%). MS ISP (m/e): 422.2 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=9.60 (s, 1H), 8.25 (s, 1H), 7.88 (s, 1H), 7.65 (s, 1H), 7.27 (d, 1H), 7.20 (d, 1H), 7.02 (s, 1H), 4.06 (q, 2H), 3.79 (s, 3H), 3.10 (m, 2H), 2.60-2.70 (m, 3H), 2.14 (s, 3H), 2.02 (m, 1H), 1.86 (m, 1H), 1.65 (m, 2H), 1.15 (t, 3H).

reactant | {3-[1-dimethylamino-meth-(E)-ylidene]-2-oxo-cyclohexyl}-acetic acid ethyl ester | 0.33 mmol, 108 mg | C(C)OC(CC1C(/C(/CCC1)=C/N(C)C)=O)=O | C13H21NO3
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.30 mmol, 111 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | {2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazolin-8-yl}-acetic acid ethyl ester | C(C)OC(CC1CCCC=2C=NC(=NC12)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C23H27N5O3
